US06613743B2
tert-Butyl-N-((1S,2R)-1-benzyl-3-(tert-butyloxy)amino-2-hydroxypropyl)carbamate.
tert-Butyl-N-((1S)-1-[(2S)oxiranyl]-2-phenylethylcarbamate (0.155 g, 0.59 mmol) and O-(tert-butyl)hydroxylamine hydrochloride (0.089 g, 0.71 mmol) were heated with diisopropylethylamine (0.154 ml, 0.88 mmol) in isopropanol (2 ml) in a sealed tube at 60° C. for 5 days. The reaction mixture was concentrated in vacuo, taken up in EtOAc, washed with sat. aq. NaHCO3, and brine. The organic phase was dried over MgSO4, filtered and solvent removed in vacuo. Purication by column chromatography (1% MeOH in CH2C12) gave 100 mg of a white solid which was used directly in the next reaction.

reactant | (1S)-1-[(2S)oxiranyl]-2-phenylethylcarbamate | 0.59 mmol, 0.155 g | O1[C@H](C1)[C@H](CC1=CC=CC=C1)NC([O-])=O
reactant | O-(tert-butyl)hydroxylamine hydrochloride | 0.71 mmol, 0.089 g | Cl.C(C)(C)(C)ON
reactant | diisopropylethylamine | 0.88 mmol, 0.154 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | isopropanol | 2 ml | C(C)(C)O | C3H8O
product | tert-Butyl-N-((1S,2R)-1-benzyl-3-(tert-butyloxy)amino-2-hydroxypropyl)carbamate | 100 mg | C(C)(C)(C)OC(N[C@H]([C@@H](CNOC(C)(C)C)O)CC1=CC=CC=C1)=O | C19H32N2O4
